US07084156B2
Step A: 6-Iodo-3,4-dihydroquinolin-2(1H)-one
3,4-Dihydroquinolin-2(1H)-one (7.5 g; 51 mmol) and silver (I) sulfate (17.5 g; 56.1 mmol) were suspended in ethanol (250 mL). A solution of iodine in ethanol (250 mL) was added slowly to the reaction over 1 hour. After 6 hours, the reaction was filtered through CELITE diatomaceous earth and washed copiously with methanol. The volatiles were removed under vacuum and the crude residue was triturated with ether. The solids were collected on a fritted funnel and dried under vacuum. This provided the title compound.

reactant | 3,4-Dihydroquinolin-2(1H)-one | 51 mmol, 7.5 g | N1C(CCC2=CC=CC=C12)=O | C9H9NO
reactant | iodine | II | I2
solvent | ethanol | 250 mL | C(C)O | C2H6O
solvent | ethanol | 250 mL | C(C)O | C2H6O
catalyst | silver (I) sulfate | 56.1 mmol, 17.5 g | S(=O)(=O)([O-])[O-].[Ag+].[Ag+]
product | 6-Iodo-3,4-dihydroquinolin-2(1H)-one | IC=1C=C2CCC(NC2=CC1)=O | C9H8INO
